US05616599
2(a) Diethyl 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-2-butylimidazole-4,5-dicarboxylate
Following a procedure similar to that described in Example 1(a), but using 8.0 g of diethyl 2-butylimidazole-4,5-dicarboxylate (prepared as described in Preparation 3) and 10.41 g of t-butyl 4'-bromomethylbiphenyl-2-carboxylate, 15.4 g of the title compound were obtained as a gum.

reactant | diethyl 2-butylimidazole-4,5-dicarboxylate | 8.0 g | C(CCC)C=1NC(=C(N1)C(=O)OCC)C(=O)OCC | C13H20N2O4
reactant | t-butyl 4'-bromomethylbiphenyl-2-carboxylate | 10.41 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
product | Diethyl 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-2-butylimidazole-4,5-dicarboxylate | 15.4 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)C(=O)OCC)CCCC | C31H38N2O6
